US05321135
Synthesis of 5-(3-bromopropyl)-1,2,3-trimethoxybenzene
To a solution of 3-(3,4,5-trimethoxyphenyl)-propan-1-ol (9.50 g, 0.042 mol) in 50 ml of tetrahydrofuran, 5.0 ml (0.053 mol) of phosphorus tribromide were added dropwise at 0° C., followed by stirring at room temperature for 12 hours. The reaction mixture was added with water under ice cooling. The resulting solution was dissolved in 200 ml of ethyl acetate. The orqanic layer was washed successively with water, saturated NaHCO3 and saturated NaCl and then dried over anhydrous magnesium sulfate. The solvent was thereafter distilled off under reduced pressure. The oil thus obtained was purified by column chromatography (silica gel: "MERCK #9385", eluent: ether), whereby 10.2 g of the title compound were obtained as colorless oil (yield: 84%).

reactant | 3-(3,4,5-trimethoxyphenyl)-propan-1-ol | 0.042 mol, 9.50 g | COC=1C=C(C=C(C1OC)OC)CCCO | C12H18O4
reactant | phosphorus tribromide | 0.053 mol, 5.0 ml | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-(3-bromopropyl)-1,2,3-trimethoxybenzene | 10.2 g | BrCCCC=1C=C(C(=C(C1)OC)OC)OC | C12H17BrO3
